US05707989
4-[(3-Methylphenyl)amino]-2,8-dichloro-pyrimido[5,4-d]-pyrimidine
0.45 g of 3-methylaniline and 0.42 g of triethylamine are added to 1.0 g of 2,4,8-trichloro-pyrimido[5,4-d]pyrimidine in 20 ml of methylene chloride at 0° to -10° C. and the mixture is stirred at this temperature for 1.5 hours. Water is then added and the organic phase is separated off, dried and concentrated. The residue is purified by chromatography over an aluminium oxide column with petroleum ether/ethyl acetate (10:2).

reactant | 3-methylaniline | 0.45 g | CC=1C=C(N)C=CC1 | C7H9N
reactant | triethylamine | 0.42 g | C(C)N(CC)CC | C6H15N
reactant | 2,4,8-trichloro-pyrimido[5,4-d]pyrimidine | 1.0 g | ClC=1N=C(C2=C(N1)C(=NC=N2)Cl)Cl | C6HCl3N4
reactant | Water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-[(3-Methylphenyl)amino]-2,8-dichloro-pyrimido[5,4-d]-pyrimidine | CC=1C=C(C=CC1)NC=1C2=C(N=C(N1)Cl)C(=NC=N2)Cl | C13H9Cl2N5
